US07776847B2
A mixture of N-(3-(4-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide (50 mg, 0.09 mmol), 4-methoxyphenylboronic acid (14 mg, 0.09 mmol), tetrabutylammonium bromide (29 mg, 0.09 mmol), sodium carbonate (29 mg, 0.27 mmol) and palladium (II) acetate (1 mg) in water (3 mL) was microwaved at 160° C. for 5 min. The reaction was diluted with methylene chloride and the mixture was washed successively with aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with 98:2 methylene chloride:methanol yielded N-(3-(4-(N-tert-Butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4′-methoxybiphenyl-4-carboxamide (22 mg), as a white solid. 1H NMR (300 MHz, DMSO-d6)-8.53 (t, 1H), 8.32 (d, 1H), 7.98 (d, 1H), 7.88-7.92 (m, 2H), 7.51-7.70 (m, 5H), 7.00 (d, 2H), 3.80 (s, 3H), 3.38-3.51 (m, 4H), 1.93 (t, 2H), 1.10 ppm (s, 9H). MW=553 confirmed by LC-MS, tr=4.18 min (Method B) MH+=554.

reactant | N-(3-(4-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide | 0.09 mmol, 50 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC2=C1C(=NS2)NCCCNC(C2=CC=C(C=C2)I)=O | C21H25IN4O3S2
reactant | 4-methoxyphenylboronic acid | 0.09 mmol, 14 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 0.27 mmol, 29 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.09 mmol, 29 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 3 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium (II) acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3-(4-(N-tert-Butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4′-methoxybiphenyl-4-carboxamide | 22 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC2=C1C(=NS2)NCCCNC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC | C28H32N4O4S2
